US05663297
A solution of 583 mg of H-Gly-Asp(OBzl)-Val-OBzl (Example 15Bb) and 477.5 mg of Boc-Lys(Z)-O Su in 10 ml of DMF is adjusted to pH 8.5 with N-methylmorpholine. After stirring for 18 hours the mixture is concentrated and the residue is partitioned between ethyl acetate and water. The organic phase is washed with saturated NaHCO3 solution, 5% KHSO4 /10% K2SO4 solution and saturated NaCl solution, dried and filtered. The filtrate is concentrated and the residue is crystallized from ether. There are obtained 385 mg of Boc-Lys(Z)-Gly-Asp(OBzl)-Val-OBzl, m.p. 95°-101° C.

reactant | H-Gly-Asp(OBzl)-Val-OBzl | 583 mg | NCC(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C25H31N3O6
reactant | Boc-Lys(Z)-O Su | 477.5 mg | CC(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)ON2C(=O)CCC2=O | C23H31N3O8
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Boc-Lys(Z)-Gly-Asp(OBzl)-Val-OBzl | 385 mg | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C44H57N5O11
